US07713994B2
6-Cyclopentyl-4-[(4-furan-3-yl-3-hydroxy-benzylamino)-methylene]-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound (purified through chromatography) is prepared from 6-cyclopentyl-4-methoxymethylene-4H-isoquinoline-1,3-dione (108 mg, 0.398 mmol) and 5-Aminomethyl-2-furan-3-yl-phenol (109 mg, 0.57 mmol) in 78% yield: MS (ESI): 427.1 (M−1)−1.

reactant | 4-{[(2-hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-cyclopentyl-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.398 mmol, 108 mg | C1(CCCC1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C16H17NO3
reactant | 5-Aminomethyl-2-furan-3-yl-phenol | 0.57 mmol, 109 mg | NCC=1C=CC(=C(C1)O)C1=COC=C1 | C11H11NO2
product | 6-Cyclopentyl-4-[(4-furan-3-yl-3-hydroxy-benzylamino)-methylene]-4H-isoquinoline-1,3-dione | 78% yield | C1(CCCC1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC1=CC(=C(C=C1)C1=COC=C1)O | C26H24N2O4
